US06559118B1
2,4-dimethyl-3-pentanone (330 g, 2.89M) in chloroform (800 ml) was cooled in an ice water bath to 10° C. and bromine (462 g, 2.89M) was added slowly over 3 hours. After the addition, a slow stream of nitrogen was introduced to the mixture and HBr gas was slowly evolved from the flask. The nitrogen was left bubbling over a weekend to remove all of the HBr produced and then sodium carbonate (5 g) was added. The reaction mixture was then filtered through Celite and the chloroform removed using a rotary evaporator. Distillation of the crude product using a 1′ (2.54 cm) vigreux gave essentially pure 2-bromo-2,4-dimethyl-3-pentanone (478 g, 2.47M) b.pt. 50-52° C./10 mb (1000 Nm−2).

reactant | 2,4-dimethyl-3-pentanone | 2.89M, 330 g | CC(C)C(C(C)C)=O | C7H14O
reactant | bromine | 2.89M, 462 g | BrBr | Br2
reactant | HBr | Br | BrH
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
product | 2-bromo-2,4-dimethyl-3-pentanone | 2.47M, 478 g | BrC(C)(C(C(C)C)=O)C | C7H13BrO
